US05198925
15.3 g (0.092 mol) of hexafluoroacetone were passed with stirring in the course of 30 minutes at a temperature of 25° C. into a suspension of 5.34 g (0.092 mol) of dried potassium fluoride in 25 ml of dry diethylene glycol dimethyl ether, and the potassium fluoride dissolved. After a further 2 hours of stirring, unreacted hexafluoroacetone was distilled off under reduced pressure (water jet pump). 10 g (0.092 mol) of α-fluoroacryloyl chloride were added at a temperature of 25° C. with stirring to the remaining solution in the course of 5 minutes, and a colorless solid precipitated. The reaction mixture was stirred at a temperature of 25° C. for a further 80 minutes, and 0.005 g of hydroquinone monomethyl ether were then added, which has followed by distillation under a pressure of 40 mbar. 17.6 g (74 percent of theory) of perfluoroisopropyl α-fluoroacrylate having a boiling point of 40° C. (under 165 mbar) were obtained.

reactant | hexafluoroacetone | 0.092 mol, 15.3 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | potassium fluoride | 0.092 mol, 5.34 g | [F-].[K+]
reactant | α-fluoroacryloyl chloride | 0.092 mol, 10 g | FC(C(=O)Cl)=C | C3H2ClFO
solvent | diethylene glycol dimethyl ether | 25 ml | COCCOCCOC | C6H14O3
product | perfluoroisopropyl α-fluoroacrylate | 17.6 g, 74 percent | FC(C(=O)OC(C(F)(F)F)(C(F)(F)F)F)=C | C6H2F8O2
